US09169261B2
Synthesis of 1-(3-methyl-pyrrolo[1,2-a]pyrazin-1-yl)-pyrrolidin-3-ylamine dihydrochloride salt
HCl (4 M in dioxane, 3.80 mL, 15.2 mmol) was added to [1-(3-methyl-pyrrolo[1,2-a]pyrazin-1-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (965 mg, 3.04 mmol) in MeOH (10 mL). This was stirred overnight then concentrated to give the product (860 mg, 2.97 mmol, 98%) as a white solid.

reactant | HCl | 15.2 mmol, 4 M, 3.80 mL | Cl | ClH
reactant | [1-(3-methyl-pyrrolo[1,2-a]pyrazin-1-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 3.04 mmol, 965 mg | C(C)(C)(C)OC(NC1CN(CC1)C=1C=2N(C=C(N1)C)C=CC2)=O | C17H24N4O2
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(3-methyl-pyrrolo[1,2-a]pyrazin-1-yl)-pyrrolidin-3-ylamine dihydrochloride salt | 2.97 mmol, 860 mg, 98% | Cl.Cl.CC=1N=C(C=2N(C1)C=CC2)N2CC(CC2)N | InChI=1S/C12H16N4.2ClH/c1-9-7-15-5-2-3-11(15)12(14-9)16-6-4-10(13)8-16;;/h2-3,5,7,10H,4,6,8,13H2,1H3;2*1H
